US07470713B2
(2-(4-iodo-2-methoxypyridin-3-yl)-4-methyl-1H-imidazol-5-yl)(morpholino)methanone:
To a stirred solution of 2-(4-iodo-2-methoxypyridin-3-yl)-4-methyl-1H-imidazole-5-carboxylic acid (0.039 g, 0.1085 mmol) in N,N-diemthylformamide (2 mL) was added triethylamine (60 mL, 0.434 mmol), morpholine (14 mL, 0.1627 mmol) and PyBOP (85 mgs, 0.1627 mmol) at room temperature. The reaction was stirred at room temperature for 10 minutes then the solvent was evaporated. The residue was dissolved in ethyl acetate and washed with water and brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was purified on Prep HPLC (ammonium acetate/acetonitrile/water) to give the title material (0.024 g, 52%). 1H NMR (400 MHz, DMSO-d6) δ (ppm): 2.32 (s, 3H) 3.54 (s, 8H) 3.76 (s, 3H) 7.55 (d, J=5.31 Hz, 1H) 7.87 (d, J=5.31 Hz, 1H).

reactant | 2-(4-iodo-2-methoxypyridin-3-yl)-4-methyl-1H-imidazole-5-carboxylic acid | 0.1085 mmol, 0.039 g | IC1=C(C(=NC=C1)OC)C=1NC(=C(N1)C)C(=O)O | C11H10IN3O3
reactant | triethylamine | 0.434 mmol, 60 mL | C(C)N(CC)CC | C6H15N
reactant | morpholine | 0.1627 mmol, 14 mL | N1CCOCC1 | C4H9NO
reactant | PyBOP | 0.1627 mmol, 85 mgs | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
product | (2-(4-iodo-2-methoxypyridin-3-yl)-4-methyl-1H-imidazol-5-yl)(morpholino)methanone | 0.024 g, 52% | IC1=C(C(=NC=C1)OC)C=1NC(=C(N1)C)C(=O)N1CCOCC1 | C15H17IN4O3
